US04863920
6.78 g (20 mmol) of 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 7 hours with 1.75 g (25 mmol) of 3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 15 mg of copper(I) iodide in 50 ml of diethylamine and 30 ml of ethylene chloride. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate and hexane there was obtained 4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 161°-162°.

reactant | 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 20 mmol, 6.78 g | IC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10IN3O
reactant | 3-butyn-2-ol | 25 mmol, 1.75 g | CC(C#C)O | C4H6O
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 30 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 15 mg | [Cu]I
product | 4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | OC(C#CC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C)C | C16H15N3O2
